US05476846
b) Ethyl 4-[(2-aminocyclohexyl)methyl]benzeneacetate (cis+trans)
Obtained by operating as in example 1b from 15.5 g (56.7 mmoles) of ethyl 4-[(2-hydroxyiminocyclohexyl)methyl]benzeneacetate in ethanol saturated with NH3. After treatment, 6.1 g (yield=39.1%) of a yellow-green oil is isolated which is used without any other purification.

reactant | ethyl 4-[(2-hydroxyiminocyclohexyl)methyl]benzeneacetate | 56.7 mmoles, 15.5 g | ON=C1C(CCCC1)CC1=CC=C(C=C1)CC(=O)OCC | C17H23NO3
reactant | NH3 | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 4-[(2-aminocyclohexyl)methyl]benzeneacetate | 6.1 g, yield=39.1% | NC1C(CCCC1)CC1=CC=C(C=C1)CC(=O)OCC | C17H25NO2
